### PR TITLE
[Merged by Bors] - feat: port Mathlib 3's `Nat.factors` norm_num extension to a `simproc`

### PR DESCRIPTION
**Pull request by eric-wieser**
This is a partial attempt at #15410, porting [#8009](https://github.com/leanprover-community/mathlib3/pull/8009)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/NormNum/Factors.lean [hunk 1]
```diff
@@ -0,0 +1,146 @@
...
+
+open Nat
+
+namespace Mathlib.Meta.NormNum
+
+/-- A partial proof of `primeFactorsList`.
+Asserts that `l` is a sorted list of primes, lower bounded by a prime `p`, which multiplies to
+`n`. -/
+def FactorsHelper (n p : ℕ) (l : List ℕ) : Prop :=
+  p.Prime → List.Chain (· ≤ ·) p l ∧ (∀ a ∈ l, Nat.Prime a) ∧ List.prod l = n
```
Comment (YaelDillies) [inline Mathlib/Tactic/NormNum/Factors.lean:23]: nit
```suggestion
  p.Prime → l.Chain (· ≤ ·) p ∧ (∀ a ∈ l, Nat.Prime a) ∧ l.prod = n
```

File: Mathlib/Tactic/NormNum/Factors.lean [hunk 2]
```diff
@@ -0,0 +1,146 @@
...
+
+/-! The argument explicitness in this section is chosen to make only the numerals in the factors
+list appear in the proof term. -/
+
+theorem FactorsHelper.nil {a : ℕ} : FactorsHelper 1 a [] := fun _ =>
+  ⟨List.Chain.nil, by rintro _ ⟨⟩, List.prod_nil⟩
```
Comment (YaelDillies) [inline Mathlib/Tactic/NormNum/Factors.lean:29]: nit
```suggestion
  ⟨.nil, by rintro _ ⟨⟩, List.prod_nil⟩
```

File: Mathlib/Tactic/NormNum/Factors.lean [hunk 3]
```diff
@@ -0,0 +1,146 @@
...
+    (h₃ : IsNat (minFac b) b) (H : FactorsHelper m b l) : FactorsHelper n a (b :: l) :=
+  H.cons_of_le _ h₁ (Nat.blt_eq.mp h₂).le h₃.out
+
+theorem FactorsHelper.singleton (n : ℕ) {a : ℕ} (h₁ : Nat.blt a n) (h₂ : IsNat (minFac n) n) :
+    FactorsHelper n a [n] :=
+  FactorsHelper.nil.cons _ ⟨mul_one _⟩ h₁ h₂
+
+theorem FactorsHelper.same {n m : ℕ} (a : ℕ) {l : List ℕ}
+    (h : IsNat (a * m) n) (H : FactorsHelper m a l) :
+    FactorsHelper n a (a :: l) := fun pa =>
```
Comment (YaelDillies) [inline Mathlib/Tactic/NormNum/Factors.lean:51]:
```suggestion
theorem FactorsHelper.cons_self {n m : ℕ} (a : ℕ) {l : List ℕ}
    (h : IsNat (a * m) n) (H : FactorsHelper m a l) :
    FactorsHelper n a (a :: l) := fun pa =>
```
maybe?

File: Mathlib/Tactic/NormNum/Factors.lean [hunk 4]
```diff
@@ -0,0 +1,146 @@
...
+  H.cons_of_le _ h le_rfl (Nat.prime_def_minFac.1 pa).2 pa
+
+theorem FactorsHelper.same_singleton (a : ℕ) : FactorsHelper a a [a] :=
```
Comment (YaelDillies) [inline Mathlib/Tactic/NormNum/Factors.lean:54]: By the same logic, this would be
```suggestion
theorem FactorsHelper.singleton_self (a : ℕ) : FactorsHelper a a [a] :=
```

File: Mathlib/Tactic/NormNum/Factors.lean [hunk 5]
```diff
@@ -0,0 +1,146 @@
...
+
+open Lean Elab Tactic Qq
+
+/-- Given `n` and `a` natural numerals, returns `(l, ⊢ factorsHelper n a l)`. -/
+partial def evalPrimeFactorsListAux
+    {en n' : Q(ℕ)} {ea a' : Q(ℕ)} (hn : Q(IsNat $en $n')) (ha : Q(IsNat $ea $a')) :
+    MetaM ((l : Q(List ℕ)) × Q(FactorsHelper $en $ea $l)) := do
+  let n := n'.natLit!
+  let ⟨hn0⟩ ← if h : 0 < n then pure <| PLift.up h else
+    throwError m!"{n'} must be positive"
```
Comment (YaelDillies) [inline Mathlib/Tactic/NormNum/Factors.lean:72]: Why do we give up on computing `primeFactorsList 0` here?

**Review by YaelDillies — COMMENTED** [review]
Could you add more inline comments in the meta code? It would help maintainability

File: Mathlib/Tactic/NormNum/Factors.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/Tactic/NormNum/Factors.lean:72]: This is the `aux` function, which expects the `0` and `1` cases to already have been dispatched, such that `a` can be chosen as a prime less than `n`.

I'll make it private to make this a little more clear.

File: Mathlib/Tactic/NormNum/Factors.lean [hunk 6]
```diff
@@ -0,0 +1,157 @@
...
+theorem FactorsHelper.primeFactorsList_eq {n : ℕ} {l : List ℕ} (H : FactorsHelper n 2 l) :
+    Nat.primeFactorsList n = l :=
+  let ⟨h₁, h₂, h₃⟩ := H Nat.prime_two
+  have := List.chain'_iff_pairwise.1 (@List.Chain'.tail _ _ (_ :: _) h₁)
+  (List.eq_of_perm_of_sorted
+    (Nat.primeFactorsList_unique h₃ h₂) this (Nat.primeFactorsList_sorted _)).symm
+
+open Lean Elab Tactic Qq
+
+/-- Given `n` and `a` (in expressions `en` and `ea`) corresponding to literals numerals
```
Comment (YaelDillies) [inline Mathlib/Tactic/NormNum/Factors.lean:66]:
```suggestion
/-- Given `n` and `a` (in expressions `en` and `ea`) corresponding to literal numerals
```

File: Mathlib/Tactic/NormNum/Factors.lean [hunk 7]
```diff
@@ -0,0 +1,157 @@
...
+    have _ : $enl =Q nat_lit 0 := ⟨⟩
+    have hen : Q($en = 0) := q($(hn).out)
+    return ⟨_, q($hen ▸ Nat.primeFactorsList_zero)⟩
+  | 1 =>
+    let _ : $enl =Q nat_lit 1 := ⟨⟩
+    have hen : Q($en = 1) := q($(hn).out)
+    return ⟨_, q($hen ▸ Nat.primeFactorsList_one)⟩
+  | _ => do
+    have h2 : Q(IsNat 2 (nat_lit 2)) := q(⟨Eq.refl (nat_lit 2)⟩)
+    let ⟨l, p⟩ ← Mathlib.Meta.NormNum.evalPrimeFactorsListAux hn h2
```
Comment (YaelDillies) [inline Mathlib/Tactic/NormNum/Factors.lean:145]:
```suggestion
    let ⟨l, p⟩ ← evalPrimeFactorsListAux hn h2
```

File: Mathlib/Tactic/NormNum/Factors.lean
Comment (YaelDillies) [inline Mathlib/Tactic/NormNum/Factors.lean:1]: Should this really be in the `NormNum` folder and should you really be using the `NormNum` namespace since it's not about `norm_num`?

**Comment by YaelDillies** [comment]
I [still](https://github.com/leanprover-community/mathlib4/pull/15420#discussion_r1916005487) maintain that this shouldn't be in the NormNum` folder. I am writing the simproc from https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/Compute.20pairs.20of.20divisors and thinking of putting it in a new `Mathlib.Tactic.Simp` folder.

File: Mathlib/Tactic/NormNum/Factors.lean [hunk 8]
```diff
@@ -0,0 +1,156 @@
...
+      assertInstancesCommute
+      have : $lit =Q $eb := ⟨⟩
+      let ⟨l, p₄⟩ ← evalPrimeFactorsListAux hm hb
+      pure ⟨q($eb :: $l), q(($p₄).cons _ $hp₁ $hp₂ $hp₃ )⟩
+  else
+    -- the factor is our number itself, so we are done
+    have hm_bn_eq : b = n := (minFac_le hm_n0).eq_or_lt.resolve_right hm_bn
+    if hm_ba : b = a then
+      have h : Q($en = $ea) :=
+        have : n = a := hm_bn_eq.symm.trans hm_ba
```
Comment (kim-em) [inline Mathlib/Tactic/NormNum/Factors.lean:117]: I like the `hm_*` convention, but it only helps readability if it is used everywhere.

Comment (kim-em) [reply Mathlib/Tactic/NormNum/Factors.lean:117]: btw -- why does the unusedHaves linter not complain?

File: MathlibTest/norm_num_ext.lean [hunk 9]
```diff
@@ -118,15 +119,13 @@ example : Nat.minFac 121 = 11 := by norm_num1
...
-example : Nat.factors 12 = [2, 2, 3] := by norm_num1
-example : Nat.factors 221 = [13, 17] := by norm_num1
--/
+example : Nat.primeFactorsList 0 = [] := by simp
+example : Nat.primeFactorsList 1 = [] := by simp
+example : Nat.primeFactorsList 2 = [2] := by simp
+example : Nat.primeFactorsList 3 = [3] := by simp
+example : Nat.primeFactorsList 4 = [2, 2] := by simp
+example : Nat.primeFactorsList 12 = [2, 2, 3] := by simp
+example : Nat.primeFactorsList 221 = [13, 17] := by simp
```
Comment (kim-em) [inline MathlibTest/norm_num_ext.lean:128]: Move these to a new test file, since it is not part of norm_num?

Comment (eric-wieser) [reply MathlibTest/norm_num_ext.lean]: Moved.

File: Mathlib/Tactic/NormNum/Factors.lean (hunk 8 above)
Comment (eric-wieser) [reply Mathlib/Tactic/NormNum/Factors.lean]: I think that linter only detects tactic-mode haves, not `doElem` haves.

File: Mathlib/Tactic/NormNum/Factors.lean
Comment (eric-wieser) [reply Mathlib/Tactic/NormNum/Factors.lean:1]: Fixed.

File: Mathlib/Tactic/Simproc/Factors.lean [hunk 10]
```diff
@@ -0,0 +1,161 @@
...
+
+Note that since `norm_num` can only produce numerals, we can't use it here.
+-/
+
+open Nat
+
+namespace Mathlib.Meta.Simproc
+open Mathlib.Meta.NormNum
+
+/-- A partial proof of `primeFactorsList`.
```
Comment (YaelDillies) [inline Mathlib/Tactic/Simproc/Factors.lean:20]:
```suggestion
/-- A proof of the partial computation of `primeFactorsList`.
```
I see "partial computation" as the crucial keyword here

File: Mathlib/Tactic/Simproc/Factors.lean [hunk 11]
```diff
@@ -0,0 +1,161 @@
...
+      -- Otherwise when we recurse, we should use `b` as the new minimum factor. Note that
+      -- we must use `evalMinFac.core` to get a proof that `b` is what we computed it as.
+      have eb : Q(ℕ) := mkRawNatLit b
+      have ehb : Q(IsNat $eb $eb) := q(⟨rfl⟩)
+      have ehbm : Q($eb * $em = $en) :=
+        have : b * m = n := Nat.mul_div_cancel' (minFac_dvd _)
+        (q(Eq.refl $en) : Expr)
+      have ehp₁ := q(isNat_mul rfl $ehb $ehm $ehbm)
+      have ehp₂ : Q(Nat.blt $ea $eb = true) :=
+        have : a < b := lt_of_le_of_ne hab <| Ne.symm h_ba_eq
```
Comment (YaelDillies) [inline Mathlib/Tactic/Simproc/Factors.lean:107]:
```suggestion
        have : a < b := lt_of_le_of_ne' hab h_ba_eq
```

File: MathlibTest/norm_num_ext.lean
Comment (YaelDillies) [inline MathlibTest/norm_num_ext.lean:1]: A bit weird to have `simp` tests in a file called `norm_num_ext`, but I guess that's fine

File: MathlibTest/norm_num_ext.lean [hunk 12]
```diff
@@ -7,6 +7,7 @@ import Mathlib.Tactic.NormNum.BigOperators
 import Mathlib.Tactic.NormNum.GCD
 import Mathlib.Tactic.NormNum.IsCoprime
 import Mathlib.Tactic.NormNum.DivMod
+import Mathlib.Tactic.NormNum.Factors
```
Comment (YaelDillies) [inline MathlibTest/norm_num_ext.lean:10]:
```suggestion
```
to fix CI

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by fpvandoorn** [comment]
reviewing it right now

File: Mathlib/Tactic/Simproc/Factors.lean [hunk 13]
```diff
@@ -0,0 +1,161 @@
...
+        have : a * m = n := by simp [m, b, ← h_ba_eq, Nat.mul_div_cancel' (minFac_dvd _)]
+        (q(Eq.refl $en) : Expr)
+      let ehp₁ := q(isNat_mul rfl $eha $ehm $eh)
+      let ⟨el, ehp₂⟩ ← evalPrimeFactorsListAux ehm eha
+      pure ⟨q($ea :: $el), q(($ehp₂).cons_self _ $ehp₁)⟩
+    else
+      -- Otherwise when we recurse, we should use `b` as the new minimum factor. Note that
+      -- we must use `evalMinFac.core` to get a proof that `b` is what we computed it as.
+      have eb : Q(ℕ) := mkRawNatLit b
+      have ehb : Q(IsNat $eb $eb) := q(⟨rfl⟩)
```
Comment (fpvandoorn) [inline Mathlib/Tactic/Simproc/Factors.lean]: Can you add `ofNat` here (and quickly check whether it needs to be added elsewhere)?

Otherwise, LGTM

bors d+

Comment (eric-wieser) [reply Mathlib/Tactic/Simproc/Factors.lean]: Done, there was one more.

**Comment by ghost** [comment]
As this PR is labelled `auto-merge-after-CI`, we are now sending it to bors:

bors merge
